US05534481
Preparation of 4-ethylthio-2-methyl-2H-indazole-3-sulfonamide (Intermediate-No. 130)
4.8 g (77 mmol) of ethanethiol was added to a solution containing 8.6 g (77 mmol) of potassium t-butoxide in DMSO (70 ml), under cooling with ice, and 8 g (35 mmol) of 4-fluoro-2-methyl-2H-indazole-3-sulfonamide was further added thereto. This mixture was stirred at 120° C. for 2 hours. After confirming the disappearance of the starting material by TLC, treatment was conducted in the same manner as in Preparation Example 6 to obtain 6.8 g (yield: 72.5%) of the desired product. Melting: 145°-147° C.

reactant | ethanethiol | 77 mmol, 4.8 g | C(C)S | C2H6S
reactant | potassium t-butoxide | 77 mmol, 8.6 g | CC(C)([O-])C.[K+]
reactant | 4-fluoro-2-methyl-2H-indazole-3-sulfonamide | 35 mmol, 8 g | FC=1C2=C(N(N=C2C=CC1)C)S(=O)(=O)N | C8H8FN3O2S
solvent | DMSO | 70 ml | CS(=O)C | C2H6OS
product | 4-ethylthio-2-methyl-2H-indazole-3-sulfonamide | 6.8 g, yield: 72.5% | C(C)SC=1C2=C(N(N=C2C=CC1)C)S(=O)(=O)N | C10H13N3O2S2
